US05284847
6-Carboxy-7-ethylthieno[2,3-b]pyrazine-2,3(1H,4H)-dione
A mixture of 6-ethoxycarbonyl-7-ethylthieno[2,3-b]-pyrazine-2,3(1H,4H)-dione (24.5 g, 91 mmol) and sodium hydroxide (10.96 g, 274 mmol) in 50% aqueous tetrahydrofuran (340 ml) was heated at 50°-60° C. for 16 h. The reaction mixture was cooled to 0° C. and acidified (pH=2) with hydrochloric acid. Water (300 ml) was added, the precipitate filtered off, washed with water and dried. Purification was performed by dissolving in 2 M sodium hydroxide solution, extraction with dichloromethane and precipitation of the aqueous phase with hydrochloric acid. The precipitate was filtered off, washed with water and dried to afford 14.2 g (65%) of the title compound. M.p. 230°-232° C. 1H-NMR (DMSO-d6, δ) : 1. 09 (t, 3H) 3.03 (q, 2H), 11.90 (s, 1H), 12.50 (br. s, 1H), 12.92 (br. s, 1H).

reactant | 6-ethoxycarbonyl-7-ethylthieno[2,3-b]-pyrazine-2,3(1H,4H)-dione | 91 mmol, 24.5 g | C(C)OC(=O)C1=C(C2=C(NC(C(N2)=O)=O)S1)CC | C11H12N2O4S
reactant | sodium hydroxide | 274 mmol, 10.96 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | Water | 300 ml | O | H2O
solvent | tetrahydrofuran | 340 ml | O1CCCC1 | C4H8O
product | 6-Carboxy-7-ethylthieno[2,3-b]pyrazine-2,3(1H,4H)-dione | 14.2 g, 65% | C(=O)(O)C1=C(C2=C(NC(C(N2)=O)=O)S1)CC | C9H8N2O4S
